* C:\users\lyam\Documents\University\S4\APP4\GitHub\s4-app4\spice\xor_test.asc
V1 vdd 0 {vv}
V2 b 0 PULSE(0 {vv} 1000p 1p 1p 2000p 4000p 5)
XX2 a out vdd 0 b xor params: XOR ll=180n wn={nnw} wp={nnw*mp}
V3 a 0 PULSE(0 {vv} 2000p 1p 1p 2000p 4000p 5)
C1 out 0 1f

* block symbol definitions
.subckt xor in1 Q vdd vss in2
R1 vdd N004 1
R2 N023 vss 1
R3 Q N026 1
R4 N026 N025 1
R5 N026 N028 1
R6 vdd N003 1
R7 N020 vss 1
M9 Q P001 N014 N014 NMOS l={ll} w={wn*2} ad={450n*{wn}} as={450n*{wn}} pd={900n+{wn}} ps={1080n+{wn}}
M10 N003 P002 N011 N003 PMOS l={ll} w={wp*3} ad={450n*{wp}} as={450n*{wp}} pd={900n+{wp}} ps={1080n+{wp}}
M5 N004 P003 N012 N004 PMOS l={ll} w={wp*3} ad={450n*{wp}} as={450n*{wp}} pd={900n+{wp}} ps={1080n+{wp}}
M6 N011 P004 Q N011 PMOS l={ll} w={wp*3} ad={450n*{wp}} as={450n*{wp}} pd={900n+{wp}} ps={1080n+{wp}}
M7 N012 P005 Q N012 PMOS l={ll} w={wp1} ad={450n*{wp}} as={450n*{wp}} pd={900n+{wp}} ps={1080n+{wp}}
M1 Q N018 N015 N015 NMOS l={ll} w={wn*3} ad={450n*{wn}} as={450n*{wn}} pd={900n+{wn}} ps={1080n+{wn}}
M2 N014 P006 N020 N020 NMOS l={ll} w={wn*2} ad={450n*{wn}} as={450n*{wn}} pd={900n+{wn}} ps={1080n+{wn}}
M3 N015 P007 N023 N023 NMOS l={ll} w={wn*3} ad={450n*{wn}} as={450n*{wn}} pd={900n+{wn}} ps={1080n+{wn}}
M4 N001 N005 N007 N001 PMOS l={ll} w={wp*3} ad={450n*{wp}} as={450n*{wp}} pd={900n+{wp}} ps={1080n+{wp}}
R8 vdd N001 1
M8 N007 N005 N009 N009 NMOS l={ll} w={wn*3} ad={450n*{wn}} as={450n*{wn}} pd={900n+{wn}} ps={1080n+{wn}}
R9 N009 vss 1
R10 N005 in1 1
R11 P004 in2 1
M11 N002 N006 N008 N002 PMOS l={ll} w={wp*3} ad={450n*{wp}} as={450n*{wp}} pd={900n+{wp}} ps={1080n+{wp}}
R12 vdd N002 1
M12 N008 N006 N010 N010 NMOS l={ll} w={wn*3} ad={450n*{wn}} as={450n*{wn}} pd={900n+{wn}} ps={1080n+{wn}}
R13 N010 vss 1
R14 N006 in2 1
R15 P005 in1 1
R16 P001 in1 1
R17 P006 in2 1
M13 N013 N016 N017 N013 PMOS l={ll} w={wp*2} ad={450n*{wp}} as={450n*{wp}} pd={900n+{wp}} ps={1080n+{wp}}
R18 vdd N013 1
M14 N017 N016 N019 N019 NMOS l={ll} w={wn*2} ad={450n*{wn}} as={450n*{wn}} pd={900n+{wn}} ps={1080n+{wn}}
R19 N019 vss 1
R20 N016 in2 1
M15 N021 N022 N024 N021 PMOS l={ll} w={wp*3} ad={450n*{wp}} as={450n*{wp}} pd={900n+{wp}} ps={1080n+{wp}}
R21 vdd N021 1
M16 N024 N022 N027 N027 NMOS l={ll} w={wn*3} ad={450n*{wn}} as={450n*{wn}} pd={900n+{wn}} ps={1080n+{wn}}
R22 N027 vss 1
R23 N022 in1 1
R24 P002 N007 1
R25 P003 N008 1
R26 N018 N017 1
R27 P007 N024 1
.lib BU_180nm.lib
.param wp1={wp*3}
.param wn1={wn*3}
.param wp2={wp*3}
.ends xor

.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\lyam\Documents\LTspiceXVII\lib\cmp\standard.mos
.param vv=1.8 nnw=180n mp=2.3
.tran 0 10000p 0 10p
.lib BU_180nm.lib
.meas tran t1 find time when v(out)=vv*0.1 rise 1
.meas tran t2 find time when v(out)=vv*0.9 rise 1
.meas tran t3 find time when v(out)=vv*0.1 fall 2
.meas tran t4 find time when v(out)=vv*0.9 fall 1
.meas tran transition_up param abs(t2-t1)
.meas tran transition_down param abs(t4-t3)
.meas tran ratio param upslope/downslope
.backanno
.end
